US06103762
(a) 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-1-ol
13.40 g (100.0 mmol) of aluminium chloride and 100 ml of dichloromethane are introduced into a three-necked flask under an argon atmosphere. A solution composed of 34.60 g (199.0 mmol) of 3-bromophenol, 89.00 g (486.0 mmol) of 2,5-dichloro-2,5-dimethylhexane and 300 ml of dichloromethane is added dropwise. The reaction mixture is stirred for sixteen hours at room temperature. The reaction mixture is poured into water and extracted with dichloromethane, the extract is washed with water and the organic phase is separated by settling, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column eluted with a mixture composed of 80% heptane and 20% dichloromethane. After evaporating the solvents, 30.00 g (53%) of the expected compound are collected in the form of white crystals with a melting point of 93° C.

reactant | aluminium chloride | 100.0 mmol, 13.40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | 3-bromophenol | 199.0 mmol, 34.60 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 2,5-dichloro-2,5-dimethylhexane | 486.0 mmol, 89.00 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-1-ol | BrC=1C=C(C=2C(CCC(C2C1)(C)C)(C)C)O | C14H19BrO
